US05834468
Methyl 4-[2-(phenethyl)phenethyl]benzoate was prepared from 2-phenethylbenzaldehyde and 4-carboxybenzyltriphenylphosphonium bromide using a similar method to the described in Example 24 for the preparation of methyl 4-[3-(2-(phenethyl)phenyl)propyl]benzoate.

reactant | 2-phenethylbenzaldehyde | C(CC1=CC=CC=C1)C1=C(C=O)C=CC=C1 | C15H14O
reactant | 4-carboxybenzyltriphenylphosphonium bromide | [Br-].C(=O)(O)C1=CC=C(C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C=C1
reactant | methyl 4-[3-(2-(phenethyl)phenyl)propyl]benzoate | C(CC1=CC=CC=C1)C1=C(C=CC=C1)CCCC1=CC=C(C(=O)OC)C=C1 | C25H26O2
product | Methyl 4-[2-(phenethyl)phenethyl]benzoate | C(CC1=CC=CC=C1)C1=C(CCC2=CC=C(C(=O)OC)C=C2)C=CC=C1 | C24H24O2
